US07001899B2
Preparation of isoquinoline-1-carboxylic acid {1-[(2-ethoxy-5-oxo-tetrahydrofuran-3-ylcarbamoyl)methyl]-2-oxo-2,3,4,7-tetrahydro-1H-azepin-3-yl} amide (6):
A catalytic amount of Pd(Ph3P)4 is added to a solution of (2-ethoxy-5-oxo-tetrahydrofuran-3-yl)-carbamic acid allyl ester (338 mg, 1.48 mmol) and N,N-dimethylbarbituric acid (483 mg, 3.1 mmol) in CH2Cl2 (5 mL) at room temperature. The solution is stirred for 15 min then {3-[(isoquinolin-1-carbonyl)amino]-2-oxo-2,3,4,7-tetrahydro-azepin-1-yl} acetic acid, 5, (178 mg) as prepared above is added as a solution in CH2Cl2 (1 mL) followed by 1-hydroxybenzotriazole (416 mg, 3.1 mmol) and 1-(3-dimethyl-aminopropyl)-3-ethyl-carbodiimide hydrochloride (584 mg, 3.1 mmol). The solution is stirred for an additional 3 hours, then diluted with EtOAc, washed with saturated NaHCO3, brine, dried (MgSO4), and concentrated in vacuo to afford the desired product in sufficient purity to be used directly.

reactant | (2-ethoxy-5-oxo-tetrahydrofuran-3-yl)-carbamic acid allyl ester | 1.48 mmol, 338 mg | C(C=C)OC(NC1C(OC(C1)=O)OCC)=O | C10H15NO5
reactant | {3-[(isoquinolin-1-carbonyl)amino]-2-oxo-2,3,4,7-tetrahydro-azepin-1-yl} acetic acid | C1(=NC=CC2=CC=CC=C12)C(=O)NC1C(N(CC=CC1)CC(=O)O)=O | C18H17N3O4
reactant | 1-hydroxybenzotriazole | 3.1 mmol, 416 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd(Ph3P)4 | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | isoquinoline-1-carboxylic acid {1-[(2-ethoxy-5-oxo-tetrahydrofuran-3-ylcarbamoyl)methyl]-2-oxo-2,3,4,7-tetrahydro-1H-azepin-3-yl} amide | C(C)OC1OC(CC1NC(=O)CN1C(C(CC=CC1)NC(=O)C1=NC=CC2=CC=CC=C12)=O)=O | C24H26N4O6
